US04517122
1,4,8,11-Tetraazacyclotetradecane-5,12-dione
Methyl acrylate (344 g, 4.0 moles) was added dropwise into neat ethylenediamine (240 g, 4.0 moles) while stirring. Addition was conducted at such a rate that the reaction temperature did not exceed 45° C. Addition time was 4.0 hours. The crude colorless product, N-(2-aminoethyl)-β-alanine methyl ester (580 g), was dissolved in deionized water to give a concentration of about 25 weight percent. Allowing the solution to stand at room temperature for 2-3 days caused a white solid product to slowly precipitate. The product was obtained as a fine white powder, m.p. 198° C.-199° C. Spectral analysis confirmed the product's structure as --NHCH2CH2NHCH2CH2C(O)--2.

reactant | Methyl acrylate | 4.0 moles, 344 g | C(C=C)(=O)OC | C4H6O2
reactant | ethylenediamine | 4.0 moles, 240 g | C(CN)N | C2H8N2
reactant | N-(2-aminoethyl)-β-alanine methyl ester | 580 g | COC(CCNCCN)=O | C6H14N2O2
solvent | water | O | H2O
product | 1,4,8,11-Tetraazacyclotetradecane-5,12-dione | N1CCNC(CCNCCNC(CC1)=O)=O | C10H20N4O2
